### ISSUE TITLE
Nat.cast_succ simp lemma can be overly aggressive with num literals

### ISSUE THREAD

**Issue by ammkrn** [leanprover-community/mathlib4#1657]
In some cases, Nat.cast_succ seems to cause undesirable behavior when the simplifier is invoked in the presence a num literal that's converted to an Int. `Mathlib.Data.Nat.Cast.Defs` is a transitive dependency from `Mathlib.Init.Data.Int.Basic`, so it's not hard to pull in the lemma.

Contrived mwe; these both hit maximum recursion depth while attempting to unfold 1000 to (1 + 1 + 1 + .. n) :

```
@[simp] def numDays (isLeapYear : Bool) : Nat := 1000 + if isLeapYear then 1 else 0

example (x : Int) : x <= 1000 → x <= (Int.ofNat (numDays true)) := by
  intro h
  simp [Int.le_trans h]

example (x : Int) : x <= 1000 → x <= (numDays true) := by
  intro h
  simp [Int.le_trans h]
```

**Comment by thorimur** [comment]
This has also been discussed on Zulip [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Lots.20of.201.20.2B.201.20.2B.201.20.2B.201).

It seems the given mwe no longer works (nor do some mentioned in the zulip thread) since the priority of `Nat.cast_succ` was adjusted, but the problem still occurs in places.

Here's another mwe in a context where the rational numbers exist:
```
example : (Int.ofNat (12 * 2) : ℚ) = n := by simp
```
One possible solution (repeated here from Zulip) is to make the lemma `Nat.cast_ofNat` in `Mathlib.Data.Nat.Cast.Defs` use unification instead of typeclass search. `Nat.cast_ofNat` is tried during `simp`, but fails since the instances aren't defeq. Placing the following adjusted version before the prior example fixes the issue.
```
@[simp, norm_cast] theorem Nat.cast_ofNat' {_ : NatCast R} [Nat.AtLeastTwo n] :
  (Nat.cast (OfNat.ofNat n) : R) = OfNat.ofNat n := rfl
```

**Comment by thorimur** [comment]
`Nat.cast` has been made reducible as of leanprover/std4#101, and mathlib4 uses a sufficiently recent version of std4 to include it. The prior examples in this thread are all nonproblematic now—maybe this issue can be closed?
